US08530648B2
d) 2-((1H-indol-3-yl)methyl)-9-(quinolin-3-yl)-2,9-diazaspiro[5.5]undecan-1-one
The mixture of 9-(quinolin-3-yl)-2-((1-tosyl-1H-indol-3-yl)methyl)-2,9-diazaspiro[5.5]undecan-1-one (60 mg, 0.1 mmol) and Cs2CO3 (150 mg, 0.46 mmol) in methanol (2 mL) was heated under reflux for 18 h. The reaction mixture was diluted with ethyl acetate and washed with water and brine and dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure to afford the title compound (31 mg, 71%). [1H NMR (600 MHz, DMSO-d6) ♀ ppm 10.94 (br. s., 1H), 8.86 (d, 1H), 7.86-7.83 (m, 1H), 7.77-7.75 (m, 1H), 7.56-7.52 (m, 2H), 7.48-7.43 (m, 2H), 7.34 (d, 1H), 7.28 (d, 1H), 7.06 (t, 1H), 6.95 (t, 1H), 4.64 (s, 2H), 3.77-3.68 (m, 2H), 3.19-3.13 (m, 2H), 3.06 (t, 2H), 2.30-2.19 (m, 2H), 1.80-1.72 (m, 2H), 1.72-1.63 (m, 2H), 1.60-1.50 (m, 2H); LCMS RtA=1.05 min, [M+H]+=425.3].

reactant | 9-(quinolin-3-yl)-2-((1-tosyl-1H-indol-3-yl)methyl)-2,9-diazaspiro[5.5]undecan-1-one | 0.1 mmol, 60 mg | N1=CC(=CC2=CC=CC=C12)N1CCC2(CCCN(C2=O)CC2=CN(C3=CC=CC=C23)S(=O)(=O)C2=CC=C(C)C=C2)CC1 | C34H34N4O3S
reactant | Cs2CO3 | 0.46 mmol, 150 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | methanol | 2 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-((1H-indol-3-yl)methyl)-9-(quinolin-3-yl)-2,9-diazaspiro[5.5]undecan-1-one | 31 mg, 71% | N1C=C(C2=CC=CC=C12)CN1C(C2(CCC1)CCN(CC2)C=2C=NC1=CC=CC=C1C2)=O | C27H28N4O
